US07858613B2
Phenylthiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepin-4-ylmethyl) ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one (500 mg, 2.25 mmol) in 28 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.34 ml, 2.5 mmol) and phenyl isothiocyanate (672 μl, 5.63 mmol). The mixture was heated to reflux for 72 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:1 tert-butyl methyl ether/cyclohexane). The product was obtained in a yield of 149 mg (19%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one | 2.25 mmol, 500 mg | OCC1(C(C2=C(OCC1)C=CC=C2)=O)CO | C12H14O4
reactant | triethylamine | 2.5 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isothiocyanate | 5.63 mmol, 672 μl | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | Phenylthiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepin-4-ylmethyl) ester | OCC1(C(C2=C(OCC1)C=CC=C2)=O)COC(NC2=CC=CC=C2)=S | C19H19NO4S
